US08242175B2
(E)-3-(4-{(E)-3-[3-Chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid trifluoroacetate (40 mg, 0.076 mmol) was suspended in THF (5 ml). HOBT (16 mg, 0.116 mmol), EDC (22.3 mg, 0.116 mmol), TEA (0.04 ml, 0.291 mmol) and NH2OTHP (12 mg, 0.097 mmol) were added to the resulting mixture. The reaction was stirred at room temperature overnight and then partitioned between water and AcOEt. The organic phase was dried over Na2SO4, evaporated in vacuo and the crude product was purified by column chromatography (eluent: AcOEt/MeOH 9:1). The collected fractions were evaporated and the resulting product was dissolved in DCM and treated with HCl/Et2O for 1 h. The precipitate was filtered and purified by preparative LC-MS to give 20 mg of (E)-3-(4-{(E)-3-[3-Chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide as its trifluoroacetate salt.

reactant | (E)-3-(4-{(E)-3-[3-Chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid trifluoroacetate | 0.076 mmol, 40 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=C(C1)N1CCN(CC1)C)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O
reactant | HOBT | 0.116 mmol, 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.116 mmol, 22.3 mg
reactant | NH2OTHP | 0.097 mmol, 12 mg | NOC1OCCCC1 | C5H11NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-3-(4-{(E)-3-[3-Chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide | 20 mg | ClC=1C=C(C=C(C1)N1CCN(CC1)C)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NO)=O | C23H24ClN3O3
